Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
left flank pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with PMH of HTN, HL and OSA on CPAP presenting 
with 3 days of left flank pain and 1 day of fevers and chills.  
He reports new onset of left flank and lower abdominal pain 
starting 3 days ago, about ___, constant, non-radiating, dull 
pain.  He has never had pain like this before, was taking 
Tylenol with some relief.  He has been constipated over last 
couple of days.  Starting yesterday he began having some fevers 
and chills, temp as high as 100.8.  Called his doctor who told 
him to go to the ED.  Denies any headaches, vision changes, 
cough, CP, n/v, dysuria, hematuria, leg swelling, rash, joint 
pains.

In the ED he had a CT A/P showing a left renal infarct.  Was 
seen by vascular surgery, started on a heparin drip, given 
Tylenol and Toradol.  Reports the pain is significantly 
improved, ___.  Having a mild headache and feeling fatigued, 
thinks it is due to not sleeping and not having caffeine.  

ROS: as above, ten point ROS otherwise negative.
 
Past Medical History:
HTN
HL
OSA on CPAP
Melanoma s/p resection
Diverticulosis
Cataracts
Posterior vitreous detachment
 
Social History:
___
Family History:
Father died in ___ from CHF, had arrhythmia.  Brother and 
daughter with DM I.  Multiple grandparents and other relatives 
with MIs and CVAs at older ages. 
 
Physical Exam:
Admission PE:
97.9 163 / 95 71 18 95 Ra 
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: Soft, NT, ND +BS
Back: no CVA tenderness
Ext: no c/c/e
Skin: warm, dry no rashes
Neuro: CN II-XII intact, ___ strength throughout
Psych: pleasant, normal affect

Discharge PE
___
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: Soft, NT, ND +BS
Back: no CVA tenderness
Ext: no c/c/e
Skin: warm, dry no rashes
Neuro: CN II-XII intact, ___ strength throughout
Psych: pleasant, normal affect
 
Pertinent Results:
___ 11:53AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 11:53AM URINE  RBC-3* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 10:30AM   ___ PTT-57.6* ___
___ 08:35PM   LACTATE-1.3
___ 08:25PM   GLUCOSE-121* UREA N-8 CREAT-0.8 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-101 TOTAL CO2-24 ANION GAP-18
___ 08:25PM   WBC-10.4* RBC-4.83 HGB-14.1 HCT-41.4 MCV-86 
MCH-29.2 MCHC-34.1 RDW-13.1 RDWSD-40.4

CT A/P ___:
IMPRESSION:  
Left lower pole renal infarct.  Minimal atherosclerotic disease, 
without 
calcification of the renal arteries. 

TTE ___:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF = 65%). 
Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The ascending aorta is mildly 
dilated. The aortic arch is mildly dilated. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. 

CTA torso ___:
IMPRESSION:
1. No evidence of vascular dissection, aneurysm, or stenosis. No 
filling
defect is identified in the left renal arterial system.
2. Which shaped hypodensity at the left lower renal pole is 
unchanged compared
to ___ and is compatible with an infarct. No new 
infarct is
identified.
3. Ascending thoracic aorta measures 4.0 cm, which is top normal 
in size.
4. 7 mm left upper lobe pulmonary nodule. Six-month follow-up 
chest CT is
recommended, depending on the patient's risk factors as below.
 
RECOMMENDATION(S): The ___ pulmonary nodule 
recommendations
are intended as guidelines for follow-up and management of newly 
incidentally
detected pulmonary nodules smaller than 8 mm, in patients ___ 
years of age or
older. Low risk patients have minimal or absent history of 
smoking or other
known risk factors for primary lung neoplasm. High risk patients 
have a
history of smoking or other known risk factors for primary lung 
neoplasm.
In the case of nodule size >6 - 8 mm: For low risk patients, 
initial follow-up
CT at ___ months and then at ___ months if no change. For 
high risk
patients - initial follow-up CT at ___ months and then at ___ 
and 24 months
if no change.

Discharge labs:

___ 06:43AM BLOOD WBC-10.1* RBC-4.86 Hgb-14.3 Hct-42.5 
MCV-87 MCH-29.4 MCHC-33.6 RDW-13.1 RDWSD-42.0 Plt ___
___ 06:43AM BLOOD Glucose-99 UreaN-9 Creat-0.8 Na-142 K-3.8 
Cl-100 HCO3-27 AnGap-19
___ 06:43AM BLOOD ALT-17 AST-19 AlkPhos-54 TotBili-0.___ year old male with PMH of HTN, HL and OSA on CPAP presenting 
with 3 days of left flank pain and 1 day of fevers and chills 
found to have left renal infarct.

#Renal infarct
Vascular surgery was consulted in ED, he was started on a 
heparin drip.  He was in sinus rhythm on initial ECG and 
remained in sinus rhythm on telemetry monitoring. CTA torso did 
not reveal any evidence of vascular aneurysm, dissection or 
stenosis or evidence of vascular filling defect in left renal 
system.  TTE showed no abnormalities.  No clear etiology of 
infarct found, recommended cardiac 30 day monitor to evaluate 
for atrial fibrillation. 
-Started aspirin 81 mg daily
-Pain control with Tylenol and ibuprofen
-Follow-up with PCP to ___ 30-day cardiac monitor to evaluate 
for A-fib/flutter

#Fever
He reported fevers to 100.8 at home.  Most likely related to 
infarct, no clear evidence of infection and afebrile here.

#Pulmonary nodule
7 mm left upper lobe pulmonary nodule found.  He is a lifelong 
non-smoker without family history of lung cancer.
-Per radiology recommendations: follow-up CT at ___ months and 
then at ___ months if no change.  Discussed findings with 
patient and PCP's office.

#Microscopic hematuria
Urinalysis showed 3 RBC, likely related to infarct.
-Consider repeat U/A as outpatient

#HTN, HL
-Continue lisinopril/HCTZ
-Continue Zocor

#OSA
-Continue CPAP

#FEN/PPX: regular

Full code

Name of health care proxy: ___ 
Relationship: Wife 
Phone number: ___ 

___: home without services
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
2. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY  
3.  Docusate Sodium 100 mg PO BID:PRN constipation  
4.  Ibuprofen 400-600 mg PO Q8H:PRN Pain - Moderate  
5.  Senna 8.6 mg PO BID:PRN constipation  
6.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
7.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Renal infarct
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted with pain in your left side and were found to 
have an area of injury to your left kidney (infarct).  You had a 
CT scan, ultrasound of your heart and heart rhythm monitoring 
which did not find a cause for this.  Please follow-up with your 
primary care doctor to have a 30 day cardiac monitor set up.
 
Followup Instructions:
___